US06403578B1
a) t-butyl [N-(t-butoxycarbonyl)-N-(methoxycarbonyl)aminomethyl]-3-nitrobenzoate
To a solution of t-butyl 4-bromomethyl-3-nitrobenzoate (2.27 g, 7.2 mmol) (Int. J. Peptide Res., 36, 31 (1990)) in DMF (25 mL) was added a suspension of potassium t-butyl methyl iminodicarboxylate (J.C.S. Perkin I, 1088, (1977)) (1.56 g, 7.3 mmol) in DMF (20 mL). The dark brown solution was stirred 1 h and poured into water and extracted with ethyl acetate. The combined organic layers were washed with water, dried (sodium sulfate) and concentrated to give a pale orange oil which was purified by flash chromatography (silica gel, 20% ethyl acetate/hexane) to give the title compound (2.15 g, 73%). 1H NMR (400 MHz, CDCl3) δ8.65 (s, 1H), 8.2 (d, 1H), 7.45 (d, 1H), 5.3 (s, 2H), 3.8 (s, 3H), 1.6 (s, 9H), 1.45 (s, 9H).

reactant | t-butyl 4-bromomethyl-3-nitrobenzoate | 7.2 mmol, 2.27 g | BrCC1=C(C=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C12H14BrNO4
reactant | potassium t-butyl methyl iminodicarboxylate | 7.3 mmol, 1.56 g | N(C(=O)OC)C(=O)OC(C)(C)C.[K]
reactant | water | O | H2O
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
product | t-butyl [N-(t-butoxycarbonyl)-N-(methoxycarbonyl)aminomethyl]-3-nitrobenzoate | 2.15 g, 73% | C(C)(C)(C)OC(=O)N(C(=O)OC)CC1=C(C(=O)OC(C)(C)C)C=CC=C1[N+](=O)[O-] | C19H26N2O8
